US03959364
A solution of 4-bromo-2-fluorobiphenyl (2.51g;0.01 mole) in dry tetrahydrofuran (15ml) was aded dropwise, with stirring, to magnesium turnings (0.25g;0.0103g. atom) under a nitrogen atomosphere. When the addition was complete, the mixture was stirred and boiled under reflux for 30 minutes. The mixture was then cooled and a suspension of sodium 2-bromopropionate (1.75g;0.01 mole) in dry tetrahydrofuran (20ml) was added. Frothing occurred and when this had subsided the mixture was boiled under reflux with stirring, for one hour. The mixture was then cooled in an ice-bath and water (15ml) was added, followed by sulphuric acid (20%;5ml). The mixture was stirred for 10-15 minutes, and extracted with ether. The extract was washed with water and then extracted with aqueous potassium carbonate (1N). This extract was washed with ether and then added to a mixture of concentrated hydrochloric acid (10ml) and water (20ml). The mixture was cooled overnight and the precipitate filtered, washed with water and dried in vacuo to give 2 -(2-fluoro-4-biphenylyl)propionic acid.

reactant | 4-bromo-2-fluorobiphenyl | 0.01 mole, 2.51g | BrC1=CC(=C(C=C1)C1=CC=CC=C1)F | C12H8BrF
reactant | magnesium | 0.25g | [Mg] | Mg
reactant | sodium 2-bromopropionate | 0.01 mole, 1.75g | BrC(C(=O)[O-])C.[Na+]
reactant | sulphuric acid | 5ml | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 15ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20ml | O1CCCC1 | C4H8O
solvent | water | 15ml | O | H2O
product | 2 -(2-fluoro-4-biphenylyl)propionic acid | FC1=C(C=CC(=C1)C(C(=O)O)C)C1=CC=CC=C1 | C15H13FO2
